US08283340B2
A suspension of sodium ethoxide (924 mg, 13.6 mmol) in DMF was stirred at 0° C. for 10 min. Ethyl 4-hydroxy benzoate (2.26 g, 13.6 mmol) was slowly added and resulting mixture was stirred at this temp for 0.5 h, then allowed to reach room temp. To this mixture 1-(bromomethyl)naphthalene (2.0 g, 9.0 mmol) was added dropwise [(predissolved in DMF (5 mL)]. Resulting mixture was stirred at room temperature for 16 h. DMF was evaporated off in-vacuo and the residue taken up in EtOAc, and washed with brine, water and 1M NaOH (2×30 mL). The organic layer was dried (MgSO4) and the solvent evaporated off in-vacuo to yield ethyl 4-(naphthalene-1-ylmethoxy)benzoate (1.7 g, 5.55 mmol). This was then dissolved in THF and LiAlH4 (211 mg, 5.55 mmol) was added portionwise, with vigorous stirring. The suspension was stirred at room temperature for 3 h. THF was evaporated off in-vacuo. The crude residue was taken up in EtOAc and washed with water, brine and dried (MgSO4). EtOAc was evaporated off in-vacuo to obtain (4-(naphthalene-1-ylmethoxy)phenyl)methanol (1.3 g, 4.9 mmol) as a crude product. This was used in the next reaction step without further purification. (4-(naphthalen-1-ylmethoxy)phenyl)methanol (1.0 g, 3.8 mmol) was dissolved in toluene (30 mL) and pyridine (305 uL, 3.8 mmol) was added. The solution was cooled to 0° C. PBr3 (359 uL, 3.8 mmol) was added dropwise over 15 min. The mixture was brought up to room temperature and stirred for 1 h. It was washed with K2CO3 solution and extracted with EtOAc (3×30 mL). The EtOAc layer was washed with brine and dried (MgSO4). The solvent was evaporated off in-vacuo to obtain 1-((4-(bromomethyl)phenoxy)methyl)naphthalene (660 mg, 53%). This intermediate was used in the following reaction.

reactant | (4-(naphthalen-1-ylmethoxy)phenyl)methanol | 3.8 mmol, 1.0 g | C1(=CC=CC2=CC=CC=C12)COC1=CC=C(C=C1)CO | C18H16O2
reactant | pyridine | 3.8 mmol, 305 uL | N1=CC=CC=C1 | C5H5N
reactant | PBr3 | 3.8 mmol, 359 uL | P(Br)(Br)Br | Br3P
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
product | 1-((4-(bromomethyl)phenoxy)methyl)naphthalene | 660 mg, 53% | BrCC1=CC=C(OCC2=CC=CC3=CC=CC=C23)C=C1 | C18H15BrO
